US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid [(S)-carbamoyl-(4-fluoro-phenyl)-methyl]-amide
The title compound was synthesized in analogy to Example 15, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 100 mg, 0.42 mmol) and (S)-2-amino-2-(4-fluoro-phenyl)-acetamide (119.2 mg, 0.64 mmol) as starting materials, and isolated (10 mg, 6.3%) as white solid; LC-MS (UV peak area, ESI) 95.12%, 384.8 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.42 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | (S)-2-amino-2-(4-fluoro-phenyl)-acetamide | 0.64 mmol, 119.2 mg | N[C@H](C(=O)N)C1=CC=C(C=C1)F | C8H9FN2O
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid [(S)-carbamoyl-(4-fluoro-phenyl)-methyl]-amide | C(N)(=O)[C@H](C1=CC=C(C=C1)F)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C20H21FN4O3
